US08022065B2
4Bromo-1-[2-(tert-butyldimethylsilyloxy)eth-1-yl]-1H-indole
Add sodium hydride (4.89 g, 122.4 mmol, 60% dispersion in mineral oil) to a solution of 4-Bromo-1H-indole (12 g, 61.2 mmol) in dimethylformamide (100 ml). Cool the reaction to 0° C. and add (2-bromo-1-(tert-butyldimethylsilyloxy)ethane (17.04 g, 67.32 mmol). Stir the reaction for 1 hour at room temperature, quench with aqueous saturated sodium bicarbonate, and extract into ethyl acetate. Combine the organic layers and wash with saturated aqueous sodium chloride, dry over magnesium sulfate. Concentrate under reduced pressure to obtain the title compound, as a clear oil.

reactant | sodium hydride | 122.4 mmol, 4.89 g | [H-].[Na+]
reactant | 4-Bromo-1H-indole | 61.2 mmol, 12 g | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | 2-bromo-1-(tert-butyldimethylsilyloxy)ethane | 67.32 mmol, 17.04 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4Bromo-1-[2-(tert-butyldimethylsilyloxy)eth-1-yl]-1H-indole | BrC1=C2C=CN(C2=CC=C1)CCO[Si](C)(C)C(C)(C)C | C16H24BrNOSi
